US04550169
2-Hydrazino-2-imidazoline, dihydrochloride
A 50 g portion of 2-hydrazino-2-imidazoline hydrobromide was dissolved in 750 ml of hot absolute ethanol and treated with 100 ml of 6N hydrochloric acid in isopropanol. The precipitate was collected, washed with ethanol, dried, dissolved in 2300 ml of hot absolute ethanol, filtered and the filtrate treated with 6N hydrochloric acid in isopropanol, then cooled, giving 37 g of the desired intermediate, mp 185°-187° C.

reactant | 2-hydrazino-2-imidazoline hydrobromide | Br.N(N)C=1NCCN1
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-Hydrazino-2-imidazoline, dihydrochloride | 37 g | Cl.Cl.N(N)C=1NCCN1 | InChI=1S/C3H8N4.2ClH/c4-7-3-5-1-2-6-3;;/h1-2,4H2,(H2,5,6,7);2*1H
